US06777428B1
4-[3-(2,4-difluorobenzamidyl)benzoyl]-1-methylpiperidine hydrochloride
2,4 difluorobenzoyl chloride (100 μl, 0.82 mmol) was added to a mixture of 4-[3-aminobenzoyl]-1-methylpiperidine dihydrochloride (200 mg, 0.69 mmol), tetrahydrofuran (5 ml) and 1N sodium hydroxide solution (2.4 ml). The reaction mixture was stirred 24 h at room temperature. The reaction mixture was diluted with ethyl acetate and 1N sodium hydroxide solution then extracted with ethyl acetate. The ethyl acetate extracts were washed with brine, then dried over sodium sulfate. Solvent was removed under reduced pressure to give 220 mg. This mixture contained product and unreacted 4-[3-aminobenzoyl]-1-methylpiperidine. This mixture was dissolved in tetrahydrofuran and triethylamine (144 μl, 1.03 mmol) was added to the solution followed by 2,4 difluorobenzoyl chloride (100 μl, 0.82 mmol). The resulting mixture was stirred for 2 h at room temperature. The reaction mixture was diluted with ethyl acetate and 1N sodium hydroxide solution then extracted with ethyl acetate. The ethyl acetate extracts were washed with 1N sodium hydroxide solution, water, brine, then dried over sodium sulfate. Solvent was removed under reduced pressure to give an oil. The oil was dissolved in methylene chloride:methanol:ammonium hydroxide (100:5:0.5) and the resulting precipitate was filtered and discarded. Purification by radial chromatography (silica gel, 1000 micron rotor, methylene chloride:methanol:ammonium hydroxide, 100:5:0.5) gave 200 mg (81%) of a clear colorless oil. Crystallization as the hydrochloric acid salt from ethyl acetate/ethanol provided 185 mg of a white powder.

reactant | 2,4 difluorobenzoyl chloride | 0.82 mmol, 100 μl | FC1=C(C(=O)Cl)C=CC(=C1)F | C7H3ClF2O
reactant | 4-[3-aminobenzoyl]-1-methylpiperidine dihydrochloride | 0.69 mmol, 200 mg | Cl.Cl.NC=1C=C(C(=O)C2CCN(CC2)C)C=CC1
reactant | 4-[3-aminobenzoyl]-1-methylpiperidine | NC=1C=C(C(=O)C2CCN(CC2)C)C=CC1 | C13H18N2O
reactant | triethylamine | 1.03 mmol, 144 μl | C(C)N(CC)CC | C6H15N
reactant | 2,4 difluorobenzoyl chloride | 0.82 mmol, 100 μl | FC1=C(C(=O)Cl)C=CC(=C1)F | C7H3ClF2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium hydroxide | 1N | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 1N | [OH-].[Na+]
solvent | methylene chloride methanol ammonium hydroxide | C(Cl)Cl.CO.[OH-].[NH4+]
solvent | sodium hydroxide | 1N, 2.4 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-[3-(2,4-difluorobenzamidyl)benzoyl]-1-methylpiperidine hydrochloride | 200 mg, 81% | Cl.FC1=C(C(=O)NC=2C=C(C(=O)C3CCN(CC3)C)C=CC2)C=CC(=C1)F | InChI=1S/C20H20F2N2O2.ClH/c1-24-9-7-13(8-10-24)19(25)14-3-2-4-16(11-14)23-20(26)17-6-5-15(21)12-18(17)22;/h2-6,11-13H,7-10H2,1H3,(H,23,26);1H
